US04992203
(a) 1-(4-Methoxyphenyl)-3-(4-nitrophenyl)pyrazoline (1)
A mixture of N,N-dimethyl-N-4-nitrobenzoylethylammonium chloride (18.1 g; 0.07 m), 4-methoxyphenylhydrazine hydrochloride (12.2 g; 0.07 m) and sodium carbonate (21.2 g; 0.2 m) in ethanol (200 ml.) and water (10 ml.) was boiled for a few minutes to give a deep orange solution from which a dark orange solid precipitated. The mixture was cooled to room temperature and the product was filtered, washed well with water and was dried at 50° C. (14.38 g; 69% theory).

reactant | N,N-dimethyl-N-4-nitrobenzoylethylammonium chloride | 18.1 g | [Cl-].C[NH+](CCC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C
reactant | 4-methoxyphenylhydrazine hydrochloride | 12.2 g | Cl.COC1=CC=C(C=C1)NN
reactant | sodium carbonate | 21.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 1-(4-Methoxyphenyl)-3-(4-nitrophenyl)pyrazoline | COC1=CC=C(C=C1)N1NC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O3
